US07312241B2
A mixture of 3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile (0.7 g, 3.2 mmol), N-(4-iodo-phenyl)-acetamide (1.4 g, 5.4 mmol), NaHCO3 (1.1 g, 12.8 mmol), Bu4NBr (1.2 g, 3.6 mmol) and Pd(OAc)2 (0.04 g, 0.2 mmol) in DMF (15 mL) was heated at 70° C. for 2 days. The cooled mixture was poured into water (150 mL) and was extracted with EtOAc (3×50 mL). The combined organic extracts were washed with water (2×50 mL), brine (50 mL) and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 9:1) to afford N-{4-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-phenyl}acetamide (0.4 g, 32%): mp 175-177° C.; 1H NMR (CDCl3) δ 7.51(d, J=8 Hz, 2H), 7.41 (s, 1H), 7.26 (d, J=9.0 Hz, 2H), 7.02-6.89 (m, 3H), 5.57 (s, 1H), 4.11-4.03 (q, J=7 Hz, 2H), 3.92 (s, 3H), 2.19 (s, 3H), 1.44 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ 168.38, 162.14, 150.93, 147.96, 139.91, 134.84, 129.58, 129.30, 123.08, 119.34, 118.53, 114.06, 111.01, 92.49, 64.53, 55.96, 24.65, 14.66; Anal Calcd for C20H20N2O3: C, 71.46; H, 5.99; N, 8.33. Found: C, 71.46, 6.01; N, 8.25.

reactant | 3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile | 3.2 mmol, 0.7 g | C(C)OC=1C=C(C=CC1OC)C=CC#N | C12H13NO2
reactant | N-(4-iodo-phenyl)-acetamide | 5.4 mmol, 1.4 g | IC1=CC=C(C=C1)NC(C)=O | C8H8INO
reactant | NaHCO3 | 12.8 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
reactant | water | 150 mL | O | H2O
catalyst | Bu4NBr | 3.6 mmol, 1.2 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.2 mmol, 0.04 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-{4-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-phenyl}acetamide | 0.4 g, 32% | C(#N)C=C(C1=CC(=C(C=C1)OC)OCC)C1=CC=C(C=C1)NC(C)=O | C20H20N2O3
